US05824652
Ethyl-3,4-dihydro-4-ethyl-2-methyl-3-oxo-2H-1,4-benzoxazine-2-carboxylate
The title compound was prepared from ethyl-3,4-dihydro-2-methyl-3-oxo-2H-1,4-benzoxazine-2-carboxylate and ethyl bromide according to the procedure described in Example 16. The title product was a viscous oil, which was purified by column chromatography (silica gel; dichloromethane/methanol 100:1).

reactant | ethyl-3,4-dihydro-2-methyl-3-oxo-2H-1,4-benzoxazine-2-carboxylate | C(C)OC(=O)C1(OC2=C(NC1=O)C=CC=C2)C | C12H13NO4
reactant | ethyl bromide | C(C)Br | C2H5Br
product | Ethyl-3,4-dihydro-4-ethyl-2-methyl-3-oxo-2H-1,4-benzoxazine-2-carboxylate | C(C)OC(=O)C1(OC2=C(N(C1=O)CC)C=CC=C2)C | C14H17NO4
